US05994356
(40) 1-(4-Ethoxycarbonylmethyloxyphenyl)-4-[2-(piperidin-4-yl)ethyl]piperazin-2,5-dione hydrochloride
Prepared from 4-[2-(1-tert-butyloxycarbonylpiperidin-4-yl)ethyl]-1-(4-ethoxycarbonylmethyloxyphenyl)piperazin-2,5-dione and ethereal hydrochloric acid.

reactant | 4-[2-(1-tert-butyloxycarbonylpiperidin-4-yl)ethyl]-1-(4-ethoxycarbonylmethyloxyphenyl)piperazin-2,5-dione | C(C)(C)(C)OC(=O)N1CCC(CC1)CCN1CC(N(CC1=O)C1=CC=C(C=C1)OCC(=O)OCC)=O | C26H37N3O7
reactant | hydrochloric acid | Cl | ClH
product | 1-(4-Ethoxycarbonylmethyloxyphenyl)-4-[2-(piperidin-4-yl)ethyl]piperazin-2,5-dione hydrochloride | Cl.C(C)OC(=O)COC1=CC=C(C=C1)N1C(CN(C(C1)=O)CCC1CCNCC1)=O | InChI=1S/C21H29N3O5.ClH/c1-2-28-21(27)15-29-18-5-3-17(4-6-18)24-14-19(25)23(13-20(24)26)12-9-16-7-10-22-11-8-16;/h3-6,16,22H,2,7-15H2,1H3;1H
